US07838543B2
Step 2. N-Methyl-N-{2-[methyl-(6-nitro-benzothiazol-2-yl)-amino]-ethyl}-acetamide
Dissolve N,N′-dimethyl-N-(6-nitro-benzothiazol-2-yl)-ethane-1,2-diamine (0.255 g, 0.957 mmol) in CH2Cl2 (10 mL) and add pyridine (0.1 mL, 1.2 mmol). Add acetyl chloride (0.102 mL, 1.43 mmol) and shake the mixture overnight at room temperature. Concentrate the reaction mixture in vacuo (adsorbing onto silica gel) and subject the mixture to silica gel flash column chromatography (40 g column, eluting with 1-10% MeOH/CH2Cl2) to yield the desired product (0.295 g, 100%). mass spectrum (m/e): 309.2 (M+1).

reactant | N,N′-dimethyl-N-(6-nitro-benzothiazol-2-yl)-ethane-1,2-diamine | 0.957 mmol, 0.255 g | CN(CCNC)C=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C11H14N4O2S
reactant | pyridine | 1.2 mmol, 0.1 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.43 mmol, 0.102 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-Methyl-N-{2-[methyl-(6-nitro-benzothiazol-2-yl)-amino]-ethyl}-acetamide | 0.295 g, 100% | CN(C(C)=O)CCN(C=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-])C | C13H16N4O3S
